US08008491B2
3,3-dibromo-1-pyridin-3-yl-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one (crude, 2.12 g) and 10% by weight palladium on activated charcoal (750 mg) are suspended in absolute ethanol (85 mL). This mixture is allowed to stir under a hydrogen atmosphere at atmospheric pressure for 19 hours. The reaction mixture is filtered through a pad of hyflo, washing the cake well with copious amounts of boiling ethanol. Concentration of the filtrate gives crude 1-pyridin-3-yl-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one as an sticky brown solid. Saturated aqueous sodium hydrogen carbonate (30 mL) is added and the mixture extracted with 8 portions of dichloromethane. The combined extracts are dried over magnesium sulfate, filtered and evaporated to give a brown residue. The crude material is purified by flash chromatography on a 5-gram silica gel cartridge by elution with dichloromethane:methanol (99:1). Fractions containing the product are combined and evaporated to give 380 mg of 1-pyridin-3-yl-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one (47% yield starting from 3-bromopyridine). MS: m/e 212 (M+H). 1H NMR (300 MHz, CDCl3): 8.90 (1H, d), 8.62 (1H, dd), 8.19 (1H, d), 7.96 (1H, dt), 7.61 (1H, d), 7.47 (1H, dd), 7.08 (1H, dd), 3.78 (2H, s).

reactant | 3,3-dibromo-1-pyridin-3-yl-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one | 2.12 g | BrC1(C(N(C2=NC=CC=C21)C=2C=NC=CC2)=O)Br | C12H7Br2N3O
reactant | sodium hydrogen carbonate | 30 mL | C(O)([O-])=O.[Na+]
catalyst | palladium on activated charcoal | 750 mg | [Pd] | Pd
solvent | ethanol | 85 mL | C(C)O | C2H6O
product | 1-pyridin-3-yl-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one | 380 mg, 47% yield | N1=CC(=CC=C1)N1C(CC=2C1=NC=CC2)=O | C12H9N3O
